US07902195B2
A solution of 3,7-dichloro-1-(2-propoxyethyl)pyrido[3,4-b]pyrazin-2(1H)-one (193 mg, 0.64 mmol), piperazine (118 mg, 0.91 mmol, Aldrich) and triethylamine (0.15 mL, 1.07 mmol) in THF (3 mL) was stirred at room temperature for one hour. The reaction was partitioned between ethyl acetate and water. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried over magnesium sulfate, and solvent was removed at reduced pressure to give a brown oil. This was passed through a column of silica gel with 80-100% ethyl acetate/hexane to give 7-chloro-3-(piperazin-1-yl)-1-(2-propoxyethyl)pyrido[3,4-b]pyrazin-2(1H)-one. (183 mg, 72% yield).

reactant | 3,7-dichloro-1-(2-propoxyethyl)pyrido[3,4-b]pyrazin-2(1H)-one | 0.64 mmol, 193 mg | ClC=1C(N(C2=C(N1)C=NC(=C2)Cl)CCOCCC)=O | C12H13Cl2N3O2
reactant | piperazine | 0.91 mmol, 118 mg | N1CCNCC1 | C4H10N2
reactant | triethylamine | 1.07 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 7-chloro-3-(piperazin-1-yl)-1-(2-propoxyethyl)pyrido[3,4-b]pyrazin-2(1H)-one | 72% yield | ClC1=CC2=C(N=C(C(N2CCOCCC)=O)N2CCNCC2)C=N1 | C16H22ClN5O2
